US07589120B2
2-(4-Chlorophenyl)-1-(2,4-dichlorophenyl)ethanone
420 ml of a 2M solution of the sodium salt of hexamethyldisilazane in THF are cooled to −60° C. under a nitrogen atmosphere, 350 ml of THF are added, then, dropwise, a solution of 57.6 g of 4-chlorophenylacetic acid in 70 ml of THF is added and the mixture is left stirring at −60° C. for one hour. 66 g of methyl 2,4-dichlorobenzoate are subsequently added dropwise at −60° C., the mixture is left stirring at −60° C. for 40 minutes and then the temperature is allowed to rise to 0° C. The reaction mixture is poured onto an ice/1 liter of 2N HCl mixture and extracted with ether, the organic phase is dried over Na2SO4, the solvent is concentrated under vacuum to a volume of 150 ml, 200 ml of pentane are added and the crystalline product formed is filtered off. 60 g of the expected compound are obtained.

reactant | sodium | [Na] | Na
reactant | hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 4-chlorophenylacetic acid | 57.6 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | methyl 2,4-dichlorobenzoate | 66 g | ClC1=C(C(=O)OC)C=CC(=C1)Cl | C8H6Cl2O2
reactant | HCl | 2N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | THF | 350 ml | C1CCOC1 | C4H8O
product | 2-(4-Chlorophenyl)-1-(2,4-dichlorophenyl)ethanone | 60 g | ClC1=CC=C(C=C1)CC(=O)C1=C(C=C(C=C1)Cl)Cl | C14H9Cl3O
